Ciruito Mallas
*------------------------------------
*Circuitry
*------------------------------------
*Fuente
VS	in	0	{param_vin}
*Resistencias
R1	in	out	{param_r1}
R2	out	0	{param_r2}
*R3	out	0	{param_r3}
*------------------------------------
*Parameters
.param  param_vin 5
.param param_r1	10k
.param param_r2	20k
.param param_r3	10k
*------------------------------------
*Sweep ->Barrido
*------------------------------------
*.step param param_r2 list 10k 20k
.step param param_r2 1k 20k 3k
*.step param param_r2 list 1k 20k 3k
*------------------------------------
.step param param_r1 1k 20k 3k
*.step param param_r1 list 1k 20k 3k
*------------------------------------
*ANALYSIS
*Tran
.Tran 500us
*.op
*
*Resultados
* [ltz] removed: .Plot
* [ltz] removed: .PROBE
.END
